US08168794B2
To a solution of (+/−)-2-(tert-butoxycarbonylamino)-4-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-6-methylcyclohexyl acetate in MeOH (0.03 M) was added potassium carbonate (3.0 equiv.) and the reaction was stirred at room temperature for 3 h. Upon completion, the reaction was partitioned between water and ethyl acetate. The aqueous phase was further extracted 3 more times with ethyl acetate. The organics were combined, dried with brine and sodium sulfate, filtered, and concentrated. Isolated tert-butyl(+/−)-5-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-2-hydroxy-3-methylcyclohexylcarbamate was obtained as an off-white solid in 87% yield. LC/MS=545.2 (M+H), Rt=0.75 min. To a solution of tert-butyl(+/−)-5-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-2-hydroxy-3-methylcyclohexylcarbamate (1.0 equiv.) in DCM (0.07M) at 0° C. was added DAST (1.0 equiv.) under a nitrogen atmosphere. The reaction was stirred for 1 h, upon which time, 2 more equivalents of DAST were added. After 30 min, the consumption of the starting material was complete. The reaction was quenched by the addition of water, the organic phase was dried with sodium sulfate, and concentrated. The crude material was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to afford tert-butyl(+/−)-5-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-2-fluoro-3-methylcyclohexylcarbamate as a clear oil in 60% yield. LC/MS=547.3 (M+H), Rt=0.92 min. The Boc group was removed by treating with 25% TFA in dichloromethane for 2 hours. Upon concentration under vacuo, the crude was purified via semi-prep HPLC. The pure fractions were lyophilized to yield N-(4-((+/−)-3-amino-4-fluoro-5-methylcyclohexyl)pyridin-3-yl)-2-(2,6-difluorophenyl)thiazole-4-carboxamide as the desired product as the TFA salt in 74% yield. LC/MS=447.0 (M+H), Rt=0.56 min.

reactant | (+/−)-2-(tert-butoxycarbonylamino)-4-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-6-methylcyclohexyl acetate | C(C)(=O)OC1C(CC(CC1C)C1=C(C=NC=C1)NC(=O)C=1N=C(SC1)C1=C(C=CC=C1F)F)NC(=O)OC(C)(C)C | C29H32F2N4O5S
reactant | potassium carbonate | 3.0 equiv. | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 0.03 M | CO | CH4O
product | tert-butyl(+/−)-5-(3-(2-(2,6-difluorophenyl)thiazole-4-carboxamido)pyridin-4-yl)-2-hydroxy-3-methylcyclohexylcarbamate | 87% yield | FC1=C(C(=CC=C1)F)C=1SC=C(N1)C(=O)NC=1C=NC=CC1C1CC(C(C(C1)NC(OC(C)(C)C)=O)O)C | C27H30F2N4O4S
